US04927947
Ethyl 5-bromo-2-furoate
To a stirred suspension of 8.43 g (44.14 mmol) of 5-bromo-2-furoic acid in 100 ml absolute ethanol was added 4 ml of thionyl chloride. This mixture was stirred at reflux for 3 hours and at room temperature for 18 hours. The solvent was removed in vacuo, the residual oil treated with 100 ml water and extracted with 3×75 ml ether. The combined either extracts were washed with saturated NaHCO3 and saturated NaCl solutions and dried (MgSO4). Solvent was removed in vacuo and the residue kugelrohr distilled (60° C.; 0.4 mm) to give the captioned compound as a colorless oil. PRM (CDCl3); δ1.35 (3H, t, J~7 Hz), 4.37 (2H, q, J~7 Hz), 6.45 (1H, d, J~4 Hz), 7.1 (1H, d, J~4 Hz).

reactant | 5-bromo-2-furoic acid | 44.14 mmol, 8.43 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-bromo-2-furoate | BrC1=CC=C(O1)C(=O)OCC | C7H7BrO3
